US07618978B2
2-Chloro-6-vinyl-isonicotinic acid methyl ester
Add methyl 2,6-dichloro-isonicotinate (3.8 g, 18.4 mmol), tetrakis(triphenylphosphine)palladium (0) (1.15 g, 0.99 mmol), triphenyhlphosphine (524 mg, 2 mmol) in toluene (40 mL) to a previously nitrogen-filled sealed vessel. Flush the reactants with nitrogen again. Add tributyl(vinyl)tin (6.98 mL, 24.0 mmol) and heat the sealed mixture at 95° C. overnight. Cool to room temperature, dilute with diethyl ether and filter through a filtering agent. Wash the organic filtrate with saturated ammonium chloride, saturated sodium bicarbonate and saturated aqueous sodium chloride. Dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 5:95 to 10:90 ethyl acetate:hexanes) to give the title compound (70%).

reactant | methyl 2,6-dichloro-isonicotinate | 18.4 mmol, 3.8 g | ClC=1C=C(C(=O)OC)C=C(N1)Cl | C7H5Cl2NO2
reactant | tributyl(vinyl)tin | 24.0 mmol, 6.98 mL | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.99 mmol, 1.15 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-Chloro-6-vinyl-isonicotinic acid methyl ester | 70% | COC(C1=CC(=NC(=C1)C=C)Cl)=O | C9H8ClNO2
